US07585886B2
A 20 ml 1,4-dioxane solution of 2.01 g of 4-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-3,5-difluorobenzoic acid was mixed with 2.0 ml of 4 M hydrogen chloride/1,4-dioxane and stirred overnight at room temperature. The reaction solution was concentrated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol). The purified product was dissolved in 1,4-dioxane-diethyl ether, 4 M hydrogen chloride/1,4-dioxane was added thereto, and the thus precipitated crystals were collected by filtration and then recrystallized from 1,4-dioxane-water, thereby obtaining 484 mg of 3,5-difluoro-4-[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]benzoic acid hydrochloride.

reactant | 4-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-3,5-difluorobenzoic acid | 2.01 g | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1F)F | C35H36F2N2O4
reactant | hydrogen chloride 1,4-dioxane | 4 M, 2.0 ml | Cl.O1CCOCC1
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 3,5-difluoro-4-[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]benzoic acid hydrochloride | 484 mg | Cl.FC=1C=C(C(=O)O)C=C(C1N1C[C@@H]([C@H](C1)C1=CC=CC=C1)CN[C@H](C)C1=CC=CC2=CC=CC=C12)F | InChI=1S/C30H28F2N2O2.ClH/c1-19(24-13-7-11-20-10-5-6-12-25(20)24)33-16-23-17-34(18-26(23)21-8-3-2-4-9-21)29-27(31)14-22(30(35)36)15-28(29)32;/h2-15,19,23,26,33H,16-18H2,1H3,(H,35,36);1H/t19-,23+,26-;/m1./s1
